US07390903B2
To a stirred solution of 50 mg (0.19 mmol) (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-(4-fluoro-phenyl)-methanone in 2 ml acetic acid was added 0.024 ml (0.19 mmol) of 1,1,1-trifluoro-pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 9:1) afforded 10 mg (14%) 2,2,2-trifluoro-1-[4-(4-fluoro-phenyl)-2-methyl-6,7-dihydro-5H-cyclopenta[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone as a light brown solid. ES-MS m/e (%): 380 (M+H+, 100).

reactant | (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-(4-fluoro-phenyl)-methanone | 0.19 mmol, 50 mg | NC1=C(C2=C(S1)CCC2)C(=O)C2=CC=C(C=C2)F | C14H12FNOS
reactant | 1,1,1-trifluoro-pentane-2,4-dione | 0.19 mmol, 0.024 ml | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2,2,2-trifluoro-1-[4-(4-fluoro-phenyl)-2-methyl-6,7-dihydro-5H-cyclopenta[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone | 10 mg, 14% | FC(C(=O)C=1C(=C2C(=NC1C)SC1=C2CCC1)C1=CC=C(C=C1)F)(F)F | C19H13F4NOS
